US06696110B1
Dicyclohexylcarbodiimide (0.2 g) was added to a solution of 2-(4-hydroxyphenyl)-5-pentylthiophene (0.25 g), (E)-hex-2-enoic acid, (0.1 g) 4-(dimethyiamino)pyridine (0.05 g) and dichloromethane (20 cm3) at 0° C. under an atmosphere of nitrogen. The reaction mixture was stirred overnight at room temperature, filtered to remove inorganic material and the filtrate evaporated down. The residue was purified by column chromatography on silica gel using hexane/ethyl acetate (9/1 v/v) as eluent and recrystallisation from hexane to yield 0.17 g of 2-(4-[(E)-hex-2-enoyloxy]phenyl)-5-pentylthiophene, K 47° C., [N 46° C.], I.

reactant | Dicyclohexylcarbodiimide | 0.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(4-hydroxyphenyl)-5-pentylthiophene | 0.25 g | OC1=CC=C(C=C1)C=1SC(=CC1)CCCCC | C15H18OS
reactant | (E)-hex-2-enoic acid | 0.1 g | C(\C=C\CCC)(=O)O | C6H10O2
catalyst | 4-(dimethyiamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 2-(4-[(E)-hex-2-enoyloxy]phenyl)-5-pentylthiophene | 0.17 g | C(\C=C\CCC)(=O)OC1=CC=C(C=C1)C=1SC(=CC1)CCCCC | C21H26O2S
